US09120819B2
Stage C: 6-{[6-(Benzyloxy)-1-methoxy-2-methylindolizin-3-yl]carbonyl}-2-phenyl-4H-3,1-benzoxazin-4-one
10 ml (71.8 mmol) of triethylamine and 15 g (52.7 mmol) of 4-oxo-2-phenyl-4H-3,1-benzoxazine-6-carbonyl chloride are added portionwise, at ambient temperature and under nitrogen, to the solution of 12.8 g (47.9 mmol) of 6-(benzyloxy)-1-methoxy-2-methylindolizine in 160 ml of dichloromethane. The reaction medium is stirred for 2 hours and is then filtered. The solid obtained is washed with dichloromethane and then with diisopropyl ether and dried. 17.8 g (83%) of an orange powder are obtained.

reactant | triethylamine | 71.8 mmol, 10 ml | C(C)N(CC)CC | C6H15N
reactant | 4-oxo-2-phenyl-4H-3,1-benzoxazine-6-carbonyl chloride | 52.7 mmol, 15 g | O=C1OC(=NC2=C1C=C(C=C2)C(=O)Cl)C2=CC=CC=C2 | C15H8ClNO3
reactant | 6-(benzyloxy)-1-methoxy-2-methylindolizine | 47.9 mmol, 12.8 g | C(C1=CC=CC=C1)OC1=CN2C=C(C(=C2C=C1)OC)C | C17H17NO2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 6-{[6-(Benzyloxy)-1-methoxy-2-methylindolizin-3-yl]carbonyl}-2-phenyl-4H-3,1-benzoxazin-4-one | 17.8 g, 83% | C(C1=CC=CC=C1)OC1=CN2C(=C(C(=C2C=C1)OC)C)C(=O)C=1C=CC2=C(C(OC(=N2)C2=CC=CC=C2)=O)C1 | C32H24N2O5
